US09085583B2
To a solution of 2-methyl-1-(1-phenylethyl)-1H-indole-3-carboxylic acid (150 mg, 0.54 mmol) in anhydrous dichloromethane (10 mL) was added N-hydroxybenzotriazole (87 mg, 0.64 mmol), 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride (124 mg, 0.64 mmol) and trimethylamine (163 mg, 1.61 mmol). The mixture was stirred at room temperature for 0.5 hours, then 3-(aminomethyl)-4,6-dimethylpyridin-2-ol (98 mg, 0.64 mmol) was added. The mixture was stirred at room temperature for 12 hours. To the reaction mixture was added water (20 mL), extracted with dichloromethane (20 mL×2). The organic layers were combined and concentrated to give a residue. The residue was purified by column chromatography (silica gel, dichloromethane/methanol=20:1) to give compound N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-2-methyl-1-(1-phenylethyl)-1H-indole-3-carboxamide as an off-white solid (130 mg, 59%). LRMS (M+H+) m/z: calcd 413.21. found 413. 1H NMR (300 MHz, d6-DMSO) δ: 11.59 (s, 1H), 7.73-7.66 (m, 2H), 7.34-7.29 (m, 3H), 7.23 (d, J=7.5 Hz, 1H), 7.16-6.89 (m, 4H), 5.94 (q, J=7.2 Hz, 1H), 5.88 (s, 1H), 4.32 (d, J=5.4 Hz, 2H), 2.60 (s, 3H), 2.27 (s, 3H), 2.11 (s, 3H), 1.88 (d, J=7.2 Hz, 3H).

reactant | 2-methyl-1-(1-phenylethyl)-1H-indole-3-carboxylic acid | 0.54 mmol, 150 mg | CC=1N(C2=CC=CC=C2C1C(=O)O)C(C)C1=CC=CC=C1 | C18H17NO2
reactant | N-hydroxybenzotriazole | 0.64 mmol, 87 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride | 0.64 mmol, 124 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | trimethylamine | 1.61 mmol, 163 mg | CN(C)C | C3H9N
reactant | 3-(aminomethyl)-4,6-dimethylpyridin-2-ol | 0.64 mmol, 98 mg | NCC=1C(=NC(=CC1C)C)O | C8H12N2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-2-methyl-1-(1-phenylethyl)-1H-indole-3-carboxamide | 130 mg, 59% | OC1=NC(=CC(=C1CNC(=O)C1=C(N(C2=CC=CC=C12)C(C)C1=CC=CC=C1)C)C)C | C26H27N3O2
